US07196080B2
To a DMF (10 ml) solution of 1.50 g of 4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenol were added 1.00 g of 4-chloromethylpyridine-N-oxide and 3.00 g of cesium carbonate, followed by 30 minutes of stirring at room temperature. After warmed to 60° C., the mixture was further stirred for 30 minutes. Then, 1.00 g of 4-chloromethylpyridine-N-oxide and 1.50 g of cesium carbonate were added thereto and the whole was stirred at 60° C. for 1 hour. After cooling to room temperature, water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water and brine and then dried over anhydrous magnesium sulfate, and thereafter, the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform-methanol) and then recrystallization was carried out from ethanol to obtain 440 mg of 1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-4-[4-(1-oxido-4-pyridylmethoxy)phenyl]piperazine as pale yellow crystals.

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenol | 1.50 g | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C24H25N3O4
reactant | 4-chloromethylpyridine-N-oxide | 1.00 g | ClCC1=CC=[N+](C=C1)[O-] | C6H6ClNO
reactant | cesium carbonate | 3.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethylpyridine-N-oxide | 1.00 g | ClCC1=CC=[N+](C=C1)[O-] | C6H6ClNO
reactant | cesium carbonate | 1.50 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | O | H2O
product | 1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-4-[4-(1-oxido-4-pyridylmethoxy)phenyl]piperazine | 440 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)OCC1=CC=[N+](C=C1)[O-] | C30H30N4O5
